.probe test with simple CMOS inverter, many buggy .probe commands

Vd dd 0 dc 5
Vin in 0 dc 0 PULSE (0 5 0 10n 10n 100n 200n)
Vs ss 0 dc 0


mn1 out in ss ss nm
mp1 out in dd dd pm
.model nm nmos
.model pm pmos

*.dc vin 0 5 0.1
.tran 5n 500n

* inputs o.k.
.probe i(mp1:s) i(mn1:s) v(in) v(out) vd(mn1:d:s) vd(mp1:1, mn1:1) vd(mn1:1:0)

* buggy inputs (to check the error messages)
.probe i(mn1:z) vd(mp1:0:0) vd(mp1:1:1) hhhh) i(:u) VD(z) i(()) vd(:0:0) i(:z)

.save @mn1[id]

.control
run
display
set xbrushwidth=2
*plot commands o.k.
plot i(mn1:s) i(mp1:s)
*buggy plot command
plot i(mp1:8)
* plot o.k.
plot in out
plot  @mn1[id] - i(mn1:s)
.endc
.end
